US07910740B2
[5-(3-Chloro-benzyl)-4-ethyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 1 step e) from 76 mg (0.33 mmol) 2-chloro-1-(3-chloro-phenyl)-pentan-3-one and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 62 mg (47%) [5-(4-chloro-benzyl)-4-ethyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a light brown viscous oil. MS ISP (m/e): 439.2/441.2 (100/40) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.19 (s, 1H), 7.74 (s, 1H), 7.64 (s, 1H), 7.35-7.18 (m, 5H), 7.10 (d, 1H), 7.02 (s, 1H), 4.02 (s, 2H), 3.79 (s, 3H), 2.56 (q, 2H), 2.14 (s, 3H), 1.20 (t, 3H).

reactant | 2-chloro-1-(3-chloro-phenyl)-pentan-3-one | 0.33 mmol, 76 mg | ClC(CC1=CC(=CC=C1)Cl)C(CC)=O | C11H12Cl2O
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | [5-(3-Chloro-benzyl)-4-ethyl-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC=1C=C(CC2=C(N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC)CC)C=CC1 | C23H23ClN4OS
